US04888439
N-(2,6,10,14,18-pentamethyl-22-oxo-2,6,10,14,18-tricosapentaenyl)acetamide
Starting materials: 2,6,10,14,18-pentamethyl-22-oxo-2,6,10,14,18-tricosapentaenoic acid; ammonia water (28% ammonia water); and acetic anhydride.

reactant | 2,6,10,14,18-pentamethyl-22-oxo-2,6,10,14,18-tricosapentaenoic acid | CC(C(=O)O)=CCCC(=CCCC(=CCCC(=CCCC(=CCCC(C)=O)C)C)C)C | C28H44O3
reactant | ammonia water | O.N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-(2,6,10,14,18-pentamethyl-22-oxo-2,6,10,14,18-tricosapentaenyl)acetamide | CC(CNC(C)=O)=CCCC(=CCCC(=CCCC(=CCCC(=CCCC(C)=O)C)C)C)C | C30H49NO2
